datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24])[H:8],25.2295
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([H:20])[H:21])[H:19])[H:9],60.5006
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:13]([H:14])([H:15])[H:16],40.29192
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26][C:27]([H:30])([H:31])[H:32])([H:28])[H:29]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:26](=[C:25]([H:28])[H:29])[C:27]([H:30])([H:31])[H:32],8.7864
[C:0]([C:1]([O:2][H:12])([C:3]([C:4]([C:5]([O:6][O:7])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][H:12])[C:3]([C:4]([C:5]([O:6][O:7][H:11])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:8])([H:9])[H:10],50.2917
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])[H:11],42.0492
[C:1](=[C:2]1[C:4]([H:5])[c:6]2[c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]([H:15])[c:16]2[C:18]1([H:20])[H:21])([H:22])[H:23]>>[C:1](=[C:2]1[C:4]([H:5])=[c:6]2[c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]([H:15])[c:16]2=[C:18]1[H:21])([H:22])[H:23].[H:20],274.026896
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][C:14]([H:15])([H:16])[H:17],29.932336
[N:0]([H:1])([H:2])[H:3].[N:4]=[O:5]>>[H:1][N:4]=[O:5].[N:0]([H:2])[H:3],236.580096
[O:0][C:1]1([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]1=[O:7]>>[O:0][C:1]1=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:8])([H:12])[C:6]1=[O:7],45.952872
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8]>>[C:0]([C:1]=[N:2][H:7])([H:3])([H:4])[H:5].[H:6][O:8],12.4474
[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])=[C:5]([H:10])[C:6]1[H:11])[H:7]>>[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])=[C:5][C:6]1([H:10])[H:11])[H:7],270.99768
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:14])[H:15])([H:12])[H:13])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:12])([H:14])[H:15])[H:13])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10],125.9384
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([H:29])([H:30])[H:31])([H:27])[H:28]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:25]([C:26]([H:29])([H:30])[H:31])([H:27])[H:28],30.5432
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16])[H:5])[H:4],26.4847
[C:0]([C:1]1([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:6])[H:7].[H:8],144.833344
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10]([H:16])([H:17])[H:18])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9]([C:10]([H:16])([H:17])[H:18])[H:15])[H:14])[H:3],43.8065
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])[H:10])[H:8])([H:6])[H:7].[H:9],158.992
